US06066470
Forty mg of Met-BTC having methionine at its N-terminal obtained in Reference Example 4 was dissolved in 4 ml of 3 M urea solution. To the mixture was added a solution containing 50 mM copper sulfate 0.5 ml, glyoxylic acid 0.25 g and pyridine 0.5 ml and allowed to stand at 25° C. for 1 hour. The reaction solution was passed through Sephadex G-25 column (25 mmID×600 mmL) equilibrated with 2.5 M urea and 50 mM phosphate buffer solution (pH 6.0) and the column was washed with the same buffer solution at 6 ml/minute of flow rate to collect the fraction of diketone derivative of Met-BTC. To this fraction was added the same volume of 4 M acetic acid-4 M sodium acetate solution and then added 3,4-diaminobenzoic acid to give a final concentration of 40 mM, followed by vacuum and sealing with nitrogen gas, and the reaction was proceeded at 37° C. for 15 hours. The reaction solution was purified by the same method as described in Working Example 23 to obtain a purified BTC.

reactant | methionine | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | glyoxylic acid | 0.25 g | C(C=O)(=O)O | C2H2O3
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphate | 50 mM, pH 6.0 | P(=O)([O-])([O-])[O-]
solvent | urea | 3 M, 4 ml | NC(=O)N | CH4N2O
catalyst | copper sulfate | 50 mM, 0.5 ml | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | urea | 2.5 M | NC(=O)N | CH4N2O
product | 3,4-diaminobenzoic acid | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
